US08669266B2
(iii) 4-{2-[(4-Carboxymethoxy-quinoline-2-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester
To a solution of 5.2 g 4-{2-[(4-Benzyloxycarbonylmethoxy-quinoline-2-carbonyl)-amino]acetyl}-piperazine-1-carboxylic acid butyl ester in 120 ml ethyl acetate and 16 ml DMF were added under argon 530 mg Pd/C (10%) and the suspension was stirred under an atmosphere of hydrogen (5 bar) for 3 h. The suspension was filtered over a plug of Celite® and washed with DMF. The crude product was obtained after evaporation of the solvent and used in the next reaction step without further purification. Yield: 4.4 g.

reactant | 4-{2-[(4-Benzyloxycarbonylmethoxy-quinoline-2-carbonyl)-amino]acetyl}-piperazine-1-carboxylic acid butyl ester | 5.2 g | C(CCC)OC(=O)N1CCN(CC1)C(CNC(=O)C1=NC2=CC=CC=C2C(=C1)OCC(=O)OCC1=CC=CC=C1)=O | C30H34N4O7
solvent | ethyl acetate | 120 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 16 ml | CN(C)C=O | C3H7NO
product | 4-{2-[(4-Carboxymethoxy-quinoline-2-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C(CNC(=O)C1=NC2=CC=CC=C2C(=C1)OCC(=O)O)=O | C23H28N4O7
